### PR TITLE
feat(SetTheory/Surreal/Ordinal): move `Surreal.toOrdinal` to new file

### PR DESCRIPTION
**Pull request by vihdzp**
The basic theory of surreal numbers need not import ordinal numbers.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Surreal/Ordinal.lean [hunk 1]
```diff
@@ -0,0 +1,37 @@
...
+We define the canonical map `Ordinal → Surreal` in terms of the map `Ordinal.toPGame`.
+
+# Main declarations
+
+- `Ordinal.toSurreal`: The canonical map between ordinals and surreal numbers.
+-/
+
+open Surreal SetTheory PGame
+
+open scoped NaturalOps
```
Comment (Command-Master) [inline Mathlib/SetTheory/Surreal/Ordinal.lean:21]: Do you use this?

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 2]
```diff
@@ -284,6 +278,8 @@ instance : Inhabited Surreal :=
 
 lemma mk_eq_mk {x y : PGame.{u}} {hx hy} : mk x hx = mk y hy ↔ x ≈ y := Quotient.eq
 
+alias ⟨_, mk_eq⟩ := mk_eq_mk
```
Comment (Command-Master) [inline Mathlib/SetTheory/Surreal/Basic.lean:281]: Do you use this?

File: Mathlib/SetTheory/Game/Ordinal.lean [hunk 3]
```diff
@@ -12,15 +12,14 @@ import Mathlib.SetTheory.Ordinal.NaturalOps
 We define the canonical map `Ordinal → SetTheory.PGame`, where every ordinal is mapped to the
 game whose left set consists of all previous ordinals.
 
-The map to surreals is defined in `Ordinal.toSurreal`.
```
Comment (Command-Master) [inline Mathlib/SetTheory/Game/Ordinal.lean:15]: I think keeping the definition name would be better, because it becomes a link in the docs

File: Mathlib/SetTheory/Surreal/Ordinal.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Surreal/Ordinal.lean:21]: Oops, not yet, this was a left-over from #21979.

File: Mathlib/SetTheory/Surreal/Basic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Surreal/Basic.lean:281]: Same here.

File: Mathlib/SetTheory/Surreal/Ordinal.lean [hunk 4]
```diff
@@ -0,0 +1,37 @@
...
+/-- Ordinal games are numeric. -/
+theorem numeric_toPGame (o : Ordinal) : o.toPGame.Numeric := by
+  induction' o using Ordinal.induction with o IH
+  apply numeric_of_isEmpty_rightMoves
+  simpa using fun i => IH _ (Ordinal.toLeftMovesToPGame_symm_lt i)
+
+/-- Converts an ordinal into the corresponding surreal. -/
+noncomputable def toSurreal : Ordinal ↪o Surreal where
+  toFun o := .mk _ o.numeric_toPGame
+  inj' a b h := toPGame_equiv_iff.1 (by apply Quotient.exact h) -- Porting note: Added `by apply`
```
Comment (Command-Master) [inline Mathlib/SetTheory/Surreal/Ordinal.lean:32]: If you feel like it this porting note can be resolved by using `inj' _ _ h := toPGame_equiv_iff.1 (Quotient.exact h :)`, but this is unrelated

Comment (vihdzp) [reply Mathlib/SetTheory/Surreal/Ordinal.lean]: Eh, why not.

**Review by Command-Master — APPROVED** [review]
Thanks! lgtm, up to passing CI

**Comment by vihdzp** [comment]
Moved to the new combinatorial games repo.
https://github.com/vihdzp/combinatorial-games/pull/1
